US05470896
106.16 g (0.4 mol) of 2,4,6-tris(dimethylaminomethyl)phenol and 13.58 g (0.04 mol) of tetrabutylammonium hydrogen sulfate are placed in 200 ml of toluene in a 750 ml sulfonating flask having an anchor mixer, thermometer, reflux condenser and dropping funnel and at RT 80 g (1.0 tool) of a 50% aqueous NaOH solution are added dropwise in the course of 30 minutes. The suspension is then stirred for 30 minutes at 80° C. and then at the same temperature 154.5 g (0.8 mol) of octyl bromide are added in the course of 45 minutes. After a subsequent reaction period of 2 hours the mixture is cooled and filtered, and the filtrate is washed once with 30 ml of H20, dried over MgSO4, filtered and concentrated by evaporation, yielding 137.4 g of 2,4,6-tris(dimethylaminomethyl)phenyloctyl ether in the form of a brown, highly viscous liquid which no longer has an 0H band in the IR spectrum and of which the NMR analysis is in agreement with the said structure.

reactant | 2,4,6-tris(dimethylaminomethyl)phenol | 0.4 mol, 106.16 g | CN(C)CC1=C(C(=CC(=C1)CN(C)C)CN(C)C)O | C15H27N3O
reactant | NaOH | [OH-].[Na+]
reactant | octyl bromide | 0.8 mol, 154.5 g | C(CCCCCCC)Br | C8H17Br
catalyst | tetrabutylammonium hydrogen sulfate | 0.04 mol, 13.58 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 2,4,6-tris(dimethylaminomethyl)phenyloctyl ether | 137.4 g | CN(C)CC1=C(C(=CC(=C1)CN(C)C)CN(C)C)CCCCCCCCOCCCCCCCCC1=C(C=C(C=C1CN(C)C)CN(C)C)CN(C)C | C46H84N6O
